US05804532
A mixture of 3-cyclopropyl-2-ethoxymethylene-1-(2-phenylsulphenyl-4-trifluoromethylphenyl)propan-1,3-dione (7 g), hydroxylamine hydrochloride (1.24 g) and sodium acetate (1.5 g) in ethanol was stirred at 25° C. for 2 hours. The mixture was then poured into water and extracted with ethyl acetate. The solution was dried over anhydrous sodium sulphate and filtered. The filtrate was evaporated and the residue purified by column chromatography on silica, using a mixture of ethyl acetate and hexane as eluent. The resulting solution was evaporated and the residue crystallized from cyclohexane to give 3.06 g of 5-cyclopropyl-4-(2-phenylsulphenyl-4-trifluoromethylbenzoyl)isoxazole, m.p. 115° C.

reactant | 3-cyclopropyl-2-ethoxymethylene-1-(2-phenylsulphenyl-4-trifluoromethylphenyl)propan-1,3-dione | 7 g | C1(CC1)C(C(C(=O)C1=C(C=C(C=C1)C(F)(F)F)SC1=CC=CC=C1)=COCC)=O | C22H19F3O3S
reactant | hydroxylamine hydrochloride | 1.24 g | Cl.NO
reactant | sodium acetate | 1.5 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 5-cyclopropyl-4-(2-phenylsulphenyl-4-trifluoromethylbenzoyl)isoxazole | 3.06 g | C1(CC1)C1=C(C=NO1)C(C1=C(C=C(C=C1)C(F)(F)F)SC1=CC=CC=C1)=O | C20H14F3NO2S
